US08957062B2
Step A: 1-(3-isopropyl-1,2,4-oxadiazol-5-yl)-4-{(1R,2S)-2-[2-(4-nitrophenoxy)ethyl]cyclopropyl}piperidine
To a solution of 2-{(1S,2R)-2-[1-(3-isopropyl-1,2,4-oxadiazol-5-yl)piperidin-4-yl]cyclopropyl}ethanol (367 mg, 0.943 mmol) in DMF (3 ml) at room temperature under nitrogen was added 4-nitrophenol (144 mg, 1.037 mmol), followed by cesium carbonate (614 mg, 1.886 mmol) and the resulting mixture stirred at room temperature overnight. Ethyl acetate (50 mL) was added and washed with water followed by brine. The organic layer was then dried over sodium sulfate, filtered, and the solvent was evaporated under reduced pressure to afford the crude product which was used for the next reaction without further purification. LCMS: retention 1.24 min/2.0 minute run: (ESI) m/z 401 [M+H]+.

reactant | 2-{(1S,2R)-2-[1-(3-isopropyl-1,2,4-oxadiazol-5-yl)piperidin-4-yl]cyclopropyl}ethanol | 0.943 mmol, 367 mg | C(C)(C)C1=NOC(=N1)N1CCC(CC1)[C@@H]1[C@@H](C1)CCO | C15H25N3O2
reactant | 4-nitrophenol | 1.037 mmol, 144 mg | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | cesium carbonate | 1.886 mmol, 614 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 1-(3-isopropyl-1,2,4-oxadiazol-5-yl)-4-{(1R,2S)-2-[2-(4-nitrophenoxy)ethyl]cyclopropyl}piperidine | C(C)(C)C1=NOC(=N1)N1CCC(CC1)[C@@H]1[C@@H](C1)CCOC1=CC=C(C=C1)[N+](=O)[O-] | C21H28N4O4
